Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
bilateral adnexal masses
 
Major Surgical or Invasive Procedure:
1. Exploratory laparotomy.
2. Drainage of ascites.
3. Bilateral salpingo-oophorectomy.
4. Total abdominal hysterectomy.
5. Small bowel resection.
6. Infracolic omentectomy.

 
History of Present Illness:
The patient is a ___ G3, P3
sent by Dr. ___ and Dr. ___ for 
consultation
regarding a possible diagnosis of ovarian cancer.  The patient
relates a several-week history of mild diffuse abdominal
discomfort associated with lower back pain.  Within the past 
week
or so, she has had significant bloating and abdominal distention
where she has trouble fitting into her clothes.  She also has 
had
urinary frequency for several weeks.  She otherwise has been
doing well.  She has been tolerating regular diet, although she
does report some subtle early satiety.  She has had regular 
bowel
movements without any difficulties.  She is having regular 
menses
with no abnormal bleeding.  Her weight has been stable.  She saw
Dr. ___ for an urgent visit, and Dr. ___
diffuse abdominal tenderness over the lower quadrants and a
palpable mass in the left lower quadrant.  There was bilateral
adnexal fullness on bimanual examination.  A CT was performed on
___, which revealed a large complex solid and cystic mass
occupying the majority of the pelvis and extending to the lower
abdominal omentum.  The borders were poorly defined.  The 
uterus,
bladder, and rectum appeared normal.  There was no
retroperitoneal adenopathy.  There was a large amount of tense
ascites.  The upper abdominal organs were normal.  A CA-125 was
drawn, and the results are still pending.

 
Past Medical History:
PAST MEDICAL HISTORY:  Negative.

PAST SURGICAL HISTORY:  Tonsillectomy in ___.

ALLERGIES TO MEDICATIONS:  None.

CURRENT MEDICATIONS:  None.

OB HISTORY:  Vaginal delivery x3.

GYN HISTORY:  Last Pap smear was yesterday, and the results are
pending.  Last mammogram in ___ and normal.

 
Social History:
___
Family History:
Significant for mother with melanoma, father with pancreatic 
cancer, a paternal aunt with a question of both breast and 
ovarian cancer, and a maternal aunt with cervical cancer.

 
Physical Exam:
GENERAL:  Well developed and thin and in no acute distress.
HEENT:  Sclerae anicteric.
LYMPHATICS:  Lymph node survey was negative.
LUNGS:  Clear to auscultation.
HEART:  Regular without murmurs or gallops.
ABDOMEN:  Tensely distended.  There was a palpable mass in the
left lower quadrant, which was nontender.  The abdominal
examination in general revealed no significant tenderness.
EXTREMITIES:  Without edema.
PELVIC:  The vulva and vagina were normal.  The cervix was
normal, but displaced anteriorly.  Bimanual and rectovaginal
examination revealed a large mass filling the posterior pelvis,
displacing the cervix and uterus anteriorly.  There was no
associated cul-de-sac nodularity.  The mass seemed to be in
continuity with the palpable abdominal mass in the left lower
quadrant.  The rectum was intrinsically normal.  There was no
parametrial disease.

 
Brief Hospital Course:
The patient was admitted after having undergone exploratory 
laparotomy, drainage of ascites, bilateral 
salpingo-oophorectomy, total abdominal hysterectomy, small bowel 
resection, and infracolic omentectomy.  The procedure was 
uncomplicated; details of the case are available in a separate 
operative note.

The patient's postoperative course was unremarkable with routine 
postoperative care.  She was discharged home on POD#2 in stable 
condition: afebrile, stable vitals, tolerating a regular diet, 
ambulant, voiding spontaneously and with her pain controlled.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4-6H () as needed.
Disp:*60 Tablet(s)* Refills:*0*
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ovarian carcinoma

 
Discharge Condition:
Stable

 
Discharge Instructions:
- Please call your doctor if you experience fever > 101.4, 
chills, nausea and vomiting, worsening or severe abdominal pain, 

heavy vaginal bleeding, chest pain, trouble breathing, or if you 

have any other questions or concerns.  Please call if you have 
redness and warmth around the incision, if your incision is 
draining pus-like material, or if your incision reopens. 
- No driving for two weeks and while taking narcotic pain 
medication as it can make you drowsy. 
- No heavy lifting or strenuous exercise for 6 weeks to allow 
your incision to heal adequately.  
- Nothing per vagina (no tampons, intercourse, douching for 6 
weeks. 
- Please keep your follow-up appointments as outlined below. 

 
Followup Instructions:
___